US07399759B2
7-Methyl-2-(2-pyridyl)-4H-1,3-benzothiazine-4-one
A mixture of 2-mercapto-4-methylbenzoic acid (2.0 g, 12 mmol), 2-cyanopyridine (1.4 g, 13 mmol) and pyridine (8 ml) was refluxed for 14 hrs as described in Example 9. After cooling, the precipitated crystals were collected by filtration, subjected to a silica gel column chromatography, eluted with ethyl acetate-methanol (5:1, v/v) and recrystallized from hexane-tetrahydrofuran to give the titled compound (1.4 g, 48%).

reactant | 2-mercapto-4-methylbenzoic acid | 12 mmol, 2.0 g | SC1=C(C(=O)O)C=CC(=C1)C | C8H8O2S
reactant | 2-cyanopyridine | 13 mmol, 1.4 g | C(#N)C1=NC=CC=C1 | C6H4N2
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | 7-Methyl-2-(2-pyridyl)-4H-1,3-benzothiazine-4-one | 1.4 g, 48% | CC1=CC2=C(C(N=C(S2)C2=NC=CC=C2)=O)C=C1 | C14H10N2OS
